US05362912
(S)-3-Methyl-2-[[methyl- (2-pyridinylmethyl)amino]carbonyl]aminobutyric acid benzyl ester
A solution of 80.5 g (660 mmol) N-methylpicolylamine and 196.3 g (600 mmol) of phenoxycarbonyl-L-valine benzyl ester, prepared in step 4a above, in 600 mL of 1,4-dioxane was purged with N2. The solution was then heated at reflux for four hours under a N2 atmosphere and concentrated in vacuo. The resulting residue was dissolved in ethyl ether and extracted twice with 2N HCl. The aqueous layers were combined and washed once with ethyl ether. The aqueous layer was adjusted to about pH 9 with solid sodium carbonate and extracted twice with methylene chloride. The organic layers were combined and washed twice with 0.2M phosphate buffer (pH 7.0). The organic layer was dried over sodium sulfate, filtered and concentrated in vacuo, to afford 192.2 g of the title product as a light yellow oil.

reactant | N-methylpicolylamine | 660 mmol, 80.5 g | CNCC1=NC=CC=C1 | C7H10N2
reactant | phenoxycarbonyl-L-valine benzyl ester | 600 mmol, 196.3 g | C(C1=CC=CC=C1)OC([C@@H](NC(=O)OC1=CC=CC=C1)C(C)C)=O | C19H21NO4
solvent | 1,4-dioxane | 600 mL | O1CCOCC1 | C4H8O2
product | (S)-3-Methyl-2-[[methyl- (2-pyridinylmethyl)amino]carbonyl]aminobutyric acid benzyl ester | 192.2 g | C(C1=CC=CC=C1)OC([C@H](C(C)C)NC(=O)N(CC1=NC=CC=C1)C)=O | C20H25N3O3
